US09212190B2
Synthesis of (2R)-1-[(3R)-12-[[4-(dimethylamino)-4-ethylcyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]butan-2-ol (I-101)
A solution of (2R)-1-[(3R)-12-[(4-amino-4-ethylcyclohexyl)oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]butan-2-ol hydrochloride (90 mg, 0.21 mmol, 1.00 equiv) and HCHO (0.8 mL)(37%) in methanol (6 mL) was stirred at room temperature for 0.5 h. Then NaBH3CN (72.88 mg, 1.16 mmol, 5.49 equiv) was added. The resulting solution was allowed to react, with stirring, for an additional 2 h at room temperature. The reaction was then quenched by the addition of 20 mL of water and then extracted with 3×50 mL of chloroform/iso-propanol(3/1) and the organic layers combined and concentrated under vacuum. The crude product (98 mg) was purified by preparative HPLC under the following conditions (Waters): column: column: SunFire Prep C18, 19*150 mm 5 um; mobile phase: water with 50 mL NH4CO3 and CH3CN (5.0% CH3CN up to 44.0% in 12 min, up to 95.0% in 2 min, down to 5.0% in 2 min); Detector, 254/220 nm. This resulted in 34.6 mg (39%) of (2R)-1-[(3R)-12-[[4-(dimethylamino)-4-ethylcyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]butan-2-ol as an off-white solid. MS: 418 (M+H)+. 1H NMR (300 MHz, CD3OD): δ 8.47 (1H, s), 5.33-5.42 (1H, m), 3.68 (1H, m), 3.42-3.45 (1H, m), 3.00-3.14 (1H, m), 2.92-2.98 (1H, m), 2.70-2.73 (1H, m),2.50-2.67 (1H, m), 2.31-2.45 (1H, m), 2.06-2.11 (3H, m), 1.41-1.82 (11H, m), 0.91-1.05 (6H, m).

reactant | (2R)-1-[(3R)-12-[(4-amino-4-ethylcyclohexyl)oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]butan-2-ol hydrochloride | 0.21 mmol, 90 mg, 1.00 equiv | Cl.NC1(CCC(CC1)OC1=NC=NC=2SC=3CC[C@@H](C3C12)C[C@@H](CC)O)CC
reactant | HCHO | 0.8 mL | C=O | CH2O
reactant | NaBH3CN | 1.16 mmol, 72.88 mg, 5.49 equiv | [BH3-]C#N.[Na+]
solvent | methanol | 6 mL | CO | CH4O
product | (2R)-1-[(3R)-12-[[4-(dimethylamino)-4-ethylcyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]butan-2-ol | CN(C1(CCC(CC1)OC1=NC=NC=2SC=3CC[C@@H](C3C12)C[C@@H](CC)O)CC)C | C23H35N3O2S
